US09145438B2
A solution of 5-bromopentanoic acid (1.00 g, 5.52 mmol) and benzyl alcohol (0.286 mL, 2.76 mmol) in methylene chloride (14 mL) was treated sequentially with N,N′-diisopropylcarbodiimide (0.523 g, 4.14 mmol) and 4-dimethylaminopyridine (43.9 mg, 0.359 mmol). The solution was allowed to stir at room temperature. A precipitate formed within 1 minute of the addition of the 4-dimethylaminopyridine. After −65 h, the reaction mixture was filtered, the solid was washed with CH2Cl2 and the filtrate was washed with 20 mL portions of 1N HCl, sat NaHCO3 and brine and dried over Na2SO4. The solution was filtered and concentrated to yield a nearly colorless liquid along with a solid (DIC urea). The material was taken up in 1/1 MTBE/heptane to yield a solution with a white precipitate. The mixture was filtered and concentrated and the crude material was purified by flash chromatography (75 g silica gel; 5-10% MTBE/hept) to yield the title compound (0.69 g, 92%) as a colorless liquid. HPLC purity>95% (ret. time, 4.73 min).

reactant | 5-bromopentanoic acid | 5.52 mmol, 1.00 g | BrCCCCC(=O)O | C5H9BrO2
reactant | benzyl alcohol | 2.76 mmol, 0.286 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | N,N′-diisopropylcarbodiimide | 4.14 mmol, 0.523 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | methylene chloride | 14 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.359 mmol, 43.9 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | DIC urea | CC(N=C=NC(C)C)C.NC(=O)N | InChI=1S/C7H14N2.CH4N2O/c1-6(2)8-5-9-7(3)4;2-1(3)4/h6-7H,1-4H3;(H4,2,3,4)
